US09034866B2
2-Carbamoyl-9-fluoro-10-(3-hydroxy-3-methyl-but-1-ynyl)-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-3-carboxylic acid (0.05 g) was reacted with (2-methoxy-2-methylpropyl)amine similar to as described in Example 2 to afford 14.8 mg of 9-fluoro-10-(3-hydroxy-3-methyl-but-1-ynyl)-N3-(2-methoxy-2-methyl-propyl)-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2,3-dicarboxamide following reverse phase hplc purification. MS (Q1) 459 (M)+. 1H NMR (400 MHz, DMSO) δ 11.24 (t, 1H), 8.60 (d, J=8.5 Hz, 1H), 8.35 (s, 1H), 7.87 (s, 1H), 7.02 (d, J=10.6 Hz, 1H), 5.48 (s, 1H), 5.10-4.90 (m, 2H), 4.63-4.45 (m, 2H), 3.34 (d, J=5.6 Hz, 2H), 3.14 (s, 3H), 1.49 (s, 7H), 1.15 (s, 6H).

reactant | 2-Carbamoyl-9-fluoro-10-(3-hydroxy-3-methyl-but-1-ynyl)-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-3-carboxylic acid | 0.05 g | C(N)(=O)C=1N=C2N(CCOC3=C2C=C(C(=C3)F)C#CC(C)(C)O)C1C(=O)O | C18H16FN3O5
reactant | (2-methoxy-2-methylpropyl)amine | COC(CN)(C)C | C5H13NO
product | 9-fluoro-10-(3-hydroxy-3-methyl-but-1-ynyl)-N3-(2-methoxy-2-methyl-propyl)-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2,3-dicarboxamide | 14.8 mg | FC1=CC2=C(C=3N(CCO2)C(=C(N3)C(=O)N)C(=O)NCC(C)(C)OC)C=C1C#CC(C)(C)O | C23H27FN4O5
